Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
elective cardiac catheterization
 
Major Surgical or Invasive Procedure:
Coronary artery bypass grafting x4:  Left internal mammary 
artery to left anterior descending artery, and reverse saphenous 
vein graft to the obtuse marginal artery, and sequential reverse 
saphenous vein graft to the left posterior descending artery and 
the left posterior left ventricle branch artery.
 
History of Present Illness:
___ yo M with h/o CAD s/p LAD POBA in ___, DES to RCA in ___ 
and ___, HTN, HLD, presented for elective cardiac 
catheterization for unstable angina.

Per report, patient had 2 episodes of chest tightness while 
playing golf in ___.  These episodes last about 15 
minutes without associated nausea, diaphoresis, or shortness of 
breath.  He was seen by Dr. ___ in ___ and was 
recommended to have ETT Mibi.  Patient had it done at ___ 
___.  He reports some soreness (but not cramps or pain) in 
his legs when he climb stairs but not when he walk on flat 
ground.  He denies orthopnea, PND, ___ edema, DOE.  

Patient had cardiac catheterization today on ___.  
Patient was given 600 mg Plavix x 1 today.  He was found to have 
2 vessel disease with 90% stenosis at the ostium of the left 
main and about 80% stenosis in the RCA.  Cardiac surgery was 
onsulted for surgical revascularization.

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, + Dyslipidemia, 
+Hypertension  

2. CARDIAC HISTORY:  
- CABG: None 
-PACING/ICD: none
- PERCUTANEOUS CORONARY INTERVENTIONS:  
-- CAD s/p LAD angioplasty/POBA in ___, DES to RCA in ___ and 
___
 
3. OTHER PAST MEDICAL HISTORY:  
- Dupuytren's contracture left hand, s/p selective fasciectomy 
and skin graft ___
 
Social History:
___
Family History:
Patient was adopted.
 
Physical Exam:
Physical Exam on Admission
VS: T98, BP 102/80, HR 58, RR 17, O2Sat 100% RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without elevated JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits bilaterally.  Right 
access site without thrill, mass, oozing.  1+ DP pulses 
bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
TEE ___
PRE BYPASS No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium/left atrial appendage or the body of 
the right atrium/right atrial appendage. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
There are simple atheroma in the aortic arch. There are simple 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Physiologic mitral regurgitation 
is seen (within normal limits). There is no pericardial 
effusion. Just prior to initiation of bypass, inferolateral ST 
elevations were noted on ECG and TEE revealed dyskinesis of the 
inferior septum and inferior as well as inferolateral 
hypokinesis. Dr. ___ was notified in person of the results in 
the operating room at the time of the study.

POST CPB The patient was initially AV paced. There is normal 
biventricular systolic function. Valvular function is unchanged 
from the prebypass study. The thoracic aorta is intact after 
decannulation
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with h/o CAD s/p LAD POBA in 
___, DES to RCA in ___ and ___, HTN, HLD, presented for 
elective cardiac catheterization for unstable angina, found to 
have left main disease admitted for surgical revascularization. 
The patient was brought to  the operating room on ___ where 
the patient underwent CABGx4 (___-LAD, ___-OM,___-rPDA-rPLD 
sequence). Patient was only 3 days off plavix. Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. He arrived on Neo with increased CT 
drainage for the firt few hours and received plts, protamine and 
2 units of cells. The bleeding resolved. He remained intubated 
overnight due to hemodynamic instability. He extubated the 
morning of POD#1. He was found to be  alert and oriented x 2 and 
breathing comfortably.  The patient was neurologically intact 
but mildly confused.  He remained hypotensive, requiring volume 
and a-pacing. Over the next ___ hrs he became more confused he 
pulled out his central line and chest tubes without incident. He 
has a history of alcohol use and was placed on CIWA scale. He 
remained in the unit for several days due to his confusion. He 
eventully improved and was transferred to the floor.  Beta 
blocker was initiated and the patient was gently diuresed toward 
the preoperative weight.  Pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  On post-op 
#7 he fell on the floor afterwards he complained of left 
shoulder pain, but a follow-up radiograph revealed no fracture.  
By the time of discharge on post-operative day eight the patient 
was ambulating freely, the wound was healing and pain was 
controlled with oral analgesics.  The patient was discharged to 
home in good condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Vytorin ___ *NF* (ezetimibe-simvastatin) ___ mg Oral 
daily 
3. Lisinopril 10 mg PO DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Ascorbic Acid ___ mg PO PRN supplement 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg one tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*2
3. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
4. Amiodarone 200 mg PO DAILY 
RX *amiodarone 200 mg one tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
5. Ascorbic Acid ___ mg PO PRN supplement 
6. Vitamin D 400 UNIT PO DAILY 
7. Vytorin ___ *NF* (ezetimibe-simvastatin) ___ mg Oral 
daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease.

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month until follow up with 
surgeon
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___